US04343811
2-[3-(2-Chloro-phenyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methylpropanoic acid ethylester
Following a procedure analogous to that of Example 10, the above compound was prepared from 3-(2-chloro-phenyl)-2-methyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 3-(2-chloro-phenyl)-2-methyl-1-propyl-1H-indole-5-ol | ClC1=C(C=CC=C1)C1=C(N(C2=CC=C(C=C12)O)CCC)C | C18H18ClNO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(2-Chloro-phenyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methylpropanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=C(C=CC=C1)Cl)=O | C24H28ClNO3
